US04992544
D-Malic acid monobenzyl ester prepared as described by Example 1A was allowed to react with pivalyloxyamine hydrochloride according to the method described in the preceding examples (Part B) to provide in 89% yield O-pivalyloxy-D-malic acid hydroxyamate monobenzyl ester melting at about 75° to about 76° C.

reactant | D-Malic acid monobenzyl ester | C(C1=CC=CC=C1)OC([C@H](O)CC(=O)O)=O | C11H12O5
reactant | pivalyloxyamine hydrochloride | Cl.C(C(C)(C)C)(=O)ON
product | O-pivalyloxy-D-malic acid | 89% yield | C(C(C)(C)C)(=O)OOC([C@H](O)CC(=O)O)=O | C9H14O7
